US08110687B2
A solution of 3-nitro-5-(trifluoromethyl)phenol (0.583 g, 2.82 mmol), tert-butyl 4-hydroxypiperidine-1-carboxylate (0.850 g, 4.22 mmol), PPh3 (1.11 g, 4.22 mmol), DIAD (0.67 mL, 4.22 rnmol), and benzene (8.7 mL) was allowed to stir at rt until reaction was judged to be complete. The reaction mixture was concentrated. The resulting off-white solid was purified by column chromatography to give tert-butyl 4-(3-nitro-5-(trifluoromethyl) -phenoxy)piperidine-1-carboxylate (0.750 g, 66%). 1H NMR (400 MHz, CD3OD) δ: 8.05-7.97 (m, 2H), 7.64 (s, 1H), 4.84-4.78 (m, 1H), 3.75-3.69 (m, 2H), 3.42-3.35 (m, 2H), 2.03-1.96 (m, 2H), 1.77-1.69 (m, 2H), and 1.46 (s, 9H).

reactant | 3-nitro-5-(trifluoromethyl)phenol | 2.82 mmol, 0.583 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)O | C7H4F3NO3
reactant | tert-butyl 4-hydroxypiperidine-1-carboxylate | 4.22 mmol, 0.850 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | PPh3 | 4.22 mmol, 1.11 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.67 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | benzene | 8.7 mL | C1=CC=CC=C1 | C6H6
product | tert-butyl 4-(3-nitro-5-(trifluoromethyl) -phenoxy)piperidine-1-carboxylate | 0.750 g, 66% | [N+](=O)([O-])C=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C(C1)C(F)(F)F | C17H21F3N2O5
